US04104467
(B) N-(5-Methoxy-1,3-benzodithiol-2-ylidene)-N-methylbenzenaminium iodide
A solution of N-(5-methoxy-1,3-benzodithiol-2-ylidene)benzenamine (4.5 g) in 100 ml of methyl iodide is heated at reflux for three days. The resultant precipitate is collected by filtration and recrystallized from acetonitrile/benzene to yield 6 g of the title compound, melting point 199° C.

reactant | N-(5-methoxy-1,3-benzodithiol-2-ylidene)benzenamine | 4.5 g | COC1=CC2=C(SC(S2)=NC2=CC=CC=C2)C=C1 | C14H11NOS2
reactant | methyl iodide | 100 ml | CI | CH3I
product | N-(5-Methoxy-1,3-benzodithiol-2-ylidene)-N-methylbenzenaminium iodide | 6 g | [I-].COC1=CC2=C(SC(S2)=[N+](C2=CC=CC=C2)C)C=C1 | InChI=1S/C15H14NOS2.HI/c1-16(11-6-4-3-5-7-11)15-18-13-9-8-12(17-2)10-14(13)19-15;/h3-10H,1-2H3;1H/q+1;/p-1
